US08975254B2
d) (R)-3-acetyl-N-(1-(3-(6-cyano-5-nitropyridin-3-yl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
(R)-5-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-3-nitropicolinonitrile (0.62 g, 1.14 mmol) was coupled with 3-acetyl-1H-pyrazole-5-carboxylic acid (0.39 g, 2.50 mmol) using the method of Example 34(d). Crude product was purified twice by CombiFlash (1st column: silica, eluent: 0-10% MeOH in DCM; 2nd column: C-18, eluent: 0-100% MeCN in water) to yield 86 mg (19%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.23 (d, 3H), 2.56 (s, 3H), 4.33 (dd, 1H), 4.55 (dd, 1H), 4.58-4.67 (m, 1H), 6.83-6.86 (m, 1H), 7.29-7.31 (broad s, 1H), 7.65 (d, 1H), 8.91-8.94 (broad s, 1H), 9.64-9.67 (m, 1H).

reactant | (R)-5-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-3-nitropicolinonitrile | 1.14 mmol, 0.62 g | N[C@@H](CN1N=C(C=C1)C=1C=C(C(=NC1)C#N)[N+](=O)[O-])C | C12H12N6O2
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 2.50 mmol, 0.39 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | (R)-3-acetyl-N-(1-(3-(6-cyano-5-nitropyridin-3-yl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 86 mg, 19% | C(C)(=O)C1=NNC(=C1)C(=O)N[C@@H](CN1N=C(C=C1)C=1C=NC(=C(C1)[N+](=O)[O-])C#N)C | C18H16N8O4
